US08580794B2
(8-methyl-1,4-dioxaspiro[4.5]decan-8-yl)methanol
In a 500 ml, round-bottomed flask was lithium aluminum hydride (1.772 g) in tetrahydrofuran (234 mL) to give a suspension. This suspension was cooled to 0° C. and ethyl 8-methyl-1,4-dioxaspiro[4.5]decane-8-carboxylate (10.66 g) was added via addition funnel. The reaction was stirred overnight at room temperature and then cooled back down to 0° C. The excess lithium aluminum hydride was slowly quenched with 1.8 mL water, 1.8 mL aqueous NaOH (5N) and 5.6 mL water. The suspension was stirred until the salts turned white and was then filtered through a plug of silica gel. The filtrate was concentrated by rotary evaporation and the residue was purified by regular phase flash column chromatography (Analogix, 0-75% hexanes/ethyl acetate).

reactant | lithium aluminum hydride | 1.772 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 8-methyl-1,4-dioxaspiro[4.5]decane-8-carboxylate | 10.66 g | CC1(CCC2(OCCO2)CC1)C(=O)OCC | C12H20O4
solvent | tetrahydrofuran | 234 mL | O1CCCC1 | C4H8O
product | (8-methyl-1,4-dioxaspiro[4.5]decan-8-yl)methanol | CC1(CCC2(OCCO2)CC1)CO | C10H18O3
